US08022062B2
7-Chloro-6-(2,6-difluorobenzylthio-)2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 330, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 2,6-difluorobenzyl bromide to give, after deprotection by the General Procedure 1-4, the title compound.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2,6-difluorobenzyl bromide | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
product | 7-Chloro-6-(2,6-difluorobenzylthio-)2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=C(C=CC=C1F)F | InChI=1S/C17H16ClF2NS.ClH/c18-14-5-4-11-6-8-21-9-7-12(11)17(14)22-10-13-15(19)2-1-3-16(13)20;/h1-5,21H,6-10H2;1H
